US07423159B2
A mixture of 2-[4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzyl]-1,3-thiazole-4-carboxylic acid (0.24 g), a 1-hydroxy-1H-1,2,3-benzotriazole ammonia complex (0.12 g), 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (0.15 g) and N,N-dimethylformamide (5 mL) was stirred at room temperature for 3 days. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with 0.1N hydrochloric acid, saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate, and concentrated to give 2-[4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzyl]-1,3-thiazole-4-carboxamide as colorless crystals (0.21 g, yield 88%). Recrystallization thereof from acetone-hexane gave colorless prism crystals. melting point: 159-160° C.

reactant | 2-[4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzyl]-1,3-thiazole-4-carboxylic acid | 0.24 g | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(CC=2SC=C(N2)C(=O)O)C=C1 | C24H19FN4O3S
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 0.15 g | Cl.C(C)N=C=NCCCN(C)C
reactant | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-[4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)benzyl]-1,3-thiazole-4-carboxamide | 0.21 g, yield 88% | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(CC=2SC=C(N2)C(=O)N)C=C1 | C24H20FN5O2S
